US05858275
Metal magnesium in an amount of 12 g was suspended in 50 ml of THF under nitrogen gas stream, and a solution prepared by dissolving 100 g of 4-n-propylbromobenzene in 300 ml of THF was added dropwise and stirred at room temperature for 1 hour. A solution prepared by dissolving 78 g of 1,4-cyclohexanedione-monoethylene ketal in 300 ml of THF was added dropwise thereto and stirred at room temperature for 1 hour. After finishing of the reaction, 500 ml of a saturated aqueous solution of ammonium chloride was added and extracted with 500 ml of ethyl acetate. Organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under a reduced pressure to obtain 98 g of 1,1-ethylenedioxy-4-hydroxy-4-(4-n-propylphenyl)cyclohexane.

reactant | Metal | N[C@@H](CCSC)C=O | C5H11NOS
reactant | 4-n-propylbromobenzene | 100 g | C(CC)C1=CC=C(C=C1)Br | C9H11Br
reactant | 1,4-cyclohexanedione-monoethylene ketal | 78 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1,1-ethylenedioxy-4-hydroxy-4-(4-n-propylphenyl)cyclohexane | 98 g | C1OC2(CCC(CC2)(C2=CC=C(C=C2)CCC)O)OC1 | C17H24O3
